US09108977B2
To a solution of 300 mg of t-butyl 5-cyclopropyl-4-(2-hydroxy-3-methoxypropyl)-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate in 3 ml of toluene were added 0.1 ml of o-fluorophenol and 250 mg of cyanomethylenetributylphosphorane, followed by stirring at 80° C. for 20 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 277 mg of t-butyl 5-cyclopropyl-4-[2-(2-fluorophenoxy)-3-methoxypropyl]-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate as a pale yellow viscous substance.

reactant | t-butyl 5-cyclopropyl-4-(2-hydroxy-3-methoxypropyl)-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 300 mg | C1(CC1)C1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)OCCN2CC(COC)O | C24H36N2O5
reactant | o-fluorophenol | 0.1 ml | FC1=C(C=CC=C1)O | C6H5FO
reactant | cyanomethylenetributylphosphorane | 250 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | t-butyl 5-cyclopropyl-4-[2-(2-fluorophenoxy)-3-methoxypropyl]-3,4,6,7,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepine-8(2H)-carboxylate | 277 mg | C1(CC1)C1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)OCCN2CC(COC)OC2=C(C=CC=C2)F | C30H39FN2O5
